US07465731B2
1-Chloroethyl chloroformate (1.88 mL) was added a mixture of ethyl (2E)-3-(2-[(1-benzyl-4-piperidyl)amino]-1,3-thiazol-4-yl)acrylate (2.7 g) in dichloromethane (40 mL) at ambient temperature and the mixture was stirred at same temperature for 1.5 hour. The solvent was removed by concentration. To the residue was added an EtOH (42.7 mL) and the mixture was stirred at 70° C. for 2 hours. The reaction mixture was added 2N-ethanolic hydrogen chloride (7.3 mL) at ambient temperature and the mixture was stirred at same temperature for 20 hours. The isolated precipitate was collected by filtration to give ethyl (2E)-3-[2-(4-piperidylamino)-1,3-thiazol-4-yl]acrylate dihydrochloride (1.44 g).

reactant | 1-Chloroethyl chloroformate | 1.88 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | ethyl (2E)-3-(2-[(1-benzyl-4-piperidyl)amino]-1,3-thiazol-4-yl)acrylate | 2.7 g | C(C1=CC=CC=C1)N1CCC(CC1)NC=1SC=C(N1)/C=C/C(=O)OCC | C20H25N3O2S
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | ethyl (2E)-3-[2-(4-piperidylamino)-1,3-thiazol-4-yl]acrylate dihydrochloride | 1.44 g | Cl.Cl.N1CCC(CC1)NC=1SC=C(N1)/C=C/C(=O)OCC | InChI=1S/C13H19N3O2S.2ClH/c1-2-18-12(17)4-3-11-9-19-13(16-11)15-10-5-7-14-8-6-10;;/h3-4,9-10,14H,2,5-8H2,1H3,(H,15,16);2*1H/b4-3+;;
